US07148226B2
3-(methylsulfonyl)benzaldehyde
A solution of [3-(methylsulfonyl)phenyl]methanol (680 mg, 3.66 mmol) in anhydrous CH2Cl2 (20 mL) was treated with PCC (1.03 g, 4.75 mmol) at room temperature for 2 hours. The solvent was removed and the residue was purified by flash column chromatography (20–60% EtOAc in hexanes) to give the product (500 mg, 74% yield). 1H NMR (300 MHz, CDCl3) δ: 3.13 (s, 3 H), 7.77–7.82 (m, 1 H), 8.18–8.24 (m, 2 H), 8.46–8.48 (m, 1 H), 10.12 (s, 1 H).

reactant | [3-(methylsulfonyl)phenyl]methanol | 3.66 mmol, 680 mg | CS(=O)(=O)C=1C=C(C=CC1)CO | C8H10O3S
reactant | PCC | 4.75 mmol, 1.03 g | C=1C=C[NH+]=CC1.[O-][Cr](=O)(=O)Cl
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | 3-(methylsulfonyl)benzaldehyde | 500 mg, 74% yield | CS(=O)(=O)C=1C=C(C=O)C=CC1 | C8H8O3S
